US08956552B2
Under a nitrogen atmosphere, 4.97 g of 4-(trans-4-(2,3-difluoro-4-ethyloxyphenyl)cyclohexyl)-2-cyclohex enone (r-15) was dissolved into 60 mL of THF, 18.0 mL of propylmagnesium bromide THF solution (1 M/L) was added dropwise thereto at room temperature, and the resultant mixture was stirred at 50° C. for 30 minutes, and then stirred at room temperature overnight. A saturated aqueous solution of ammonium chloride was added dropwise under ice-cooling, the resultant mixture was subjected to extraction with ethyl acetate, and then organic layers were combined, the resultant organic layer was washed with saturated brine, and then dried over anhydrous magnesium sulfate. A solvent was evaporated under reduced pressure, and the resultant residue was purified by fractionation on silica gel column chromatography (eluate:heptane:ethyl acetate=6:4), and thus 3.79 g of 4-(trans-4-(2,3-difluoro-4-ethyloxyphenyl)cyclohexyl)-1-propyl-2-cyclohexene-1-ol (compound (r-16)) was obtained.

reactant | 4-(trans-4-(2,3-difluoro-4-ethyloxyphenyl)cyclohexyl)-2-cyclohex enone | 4.97 g | FC1=C(C=CC(=C1F)OCC)[C@@H]1CC[C@H](CC1)C1C=CC(CC1)=O | C20H24F2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(trans-4-(2,3-difluoro-4-ethyloxyphenyl)cyclohexyl)-1-propyl-2-cyclohexene-1-ol | 3.79 g | FC1=C(C=CC(=C1F)OCC)[C@@H]1CC[C@H](CC1)C1C=CC(CC1)(O)CCC | C23H32F2O2
